US09376442B2
N-[(3R*,4R*)-1-acetyl-4-hydroxypyrrolidin-3-yl]-4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-N-[(3R*,4R*)-4-hydroxypyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f22) and commercially acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-N-[(3R*,4R*)-4-hydroxypyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CNC[C@H]2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[(3R*,4R*)-1-acetyl-4-hydroxypyrrolidin-3-yl]-4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N1C[C@H]([C@@H](C1)O)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCC2CC2)C | C25H29N5O5
